US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2-phenylethyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 31.5 mg (0.21 mmol) of (2-isocyanatoethyl)benzene. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 32 mg (61.8% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
reactant | (2-isocyanatoethyl)benzene | 0.21 mmol, 31.5 mg | N(=C=O)CCC1=CC=CC=C1 | C9H9NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(2-phenylethyl)amino]carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NCCC1=CC=CC=C1 | InChI=1S/C25H28N4O2S.ClH/c30-24(28-21-16-29-12-9-18(21)10-13-29)23-14-19-6-7-20(15-22(19)32-23)27-25(31)26-11-8-17-4-2-1-3-5-17;/h1-7,14-15,18,21H,8-13,16H2,(H,28,30)(H2,26,27,31);1H/t21-;/m0./s1
